US03965107
Preparation of 2-benzyl-4,6-dimethylisothiazolo-(5,4-b)-pyridin-3-one
Triethylamine (approximately 3 ml) is added to a slurry of 5.0 g of 4,6-dimethylisothiazolo-(5,4-b)-pyridin-3(2H)-one in 120 ml reagent grade acetone until the mixture becomes homogeneous. A solution of 4.0 g (0.024 m) of benzyl bromide in 20 ml acetone is then added. The reaction mixture is stirred for 3 days at room temperature and is then stripped to dryness. The residue is washed once with deionized water, then with 95% 2B ethanol, then ether and dried to give the product.

reactant | Triethylamine | approximately 3 ml | C(C)N(CC)CC | C6H15N
reactant | 4,6-dimethylisothiazolo-(5,4-b)-pyridin-3(2H)-one | 5.0 g | CC1=C2C(=NC(=C1)C)SNC2=O | C8H8N2OS
reactant | benzyl bromide | 4.0 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2-benzyl-4,6-dimethylisothiazolo-(5,4-b)-pyridin-3-one | C(C1=CC=CC=C1)N1SC2=NC(=CC(=C2C1=O)C)C | C15H14N2OS
